US07166598B2
Under nitrogen atmosphere, to a suspension of lithium aluminum hydride (0.85 g) in tetrahydrofuran (65 ml) was added (3R)-1-benzyl-3-(4-methoxybenzyl)piperazine-2,5-dione (3.65 g) portionwise under ice-bath cooling. The reaction mixture was refluxed with stirring for one hour. After cooling, it was quenched by sequential addition of water (0.85 ml), 15% aqueous sodium hydroxide (0.85 ml), and water (2.5 ml) and the whole was stirred at room temperature for 30 minutes. The resulting insoluble material was removed by filtration, and the filtrate was added to a mixture of ethyl acetate (50 ml) and brine (70 ml). The organic layer was separated, dried over magnesium sulfate, and concentrated under reduced pressure to give (2R)-2-(4-methoxybenzyl)-4-benzylpiperazine (3.51 g) as a syrup.

reactant | lithium aluminum hydride | 0.85 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (3R)-1-benzyl-3-(4-methoxybenzyl)piperazine-2,5-dione | 3.65 g | C(C1=CC=CC=C1)N1C([C@H](NC(C1)=O)CC1=CC=C(C=C1)OC)=O | C19H20N2O3
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | (2R)-2-(4-methoxybenzyl)-4-benzylpiperazine | 3.51 g | COC1=CC=C(C[C@H]2NCCN(C2)CC2=CC=CC=C2)C=C1 | C19H24N2O
